US07361689B2
tert-Butyl-(4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-methylthiophenyl)-1,3-oxazolidine-3-carboxylate (13)
N-butyl lithium (n-BuLi), (1.78 g, 28 mmol, 1.2 eq) was added to a solution of tert-butyl (4S,5R)-5-(4-bromophenyl)-4-(fluoromethyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (9.0 g, 23 mmol) in 30 ml of anhydrous tetrahydrofuran (THF) at −78° C. in 30 min, and the reaction mixture was stirred for 30 minutes under N2. 3.1 ml of dimethyldisulfide (1.5 eq) was added, and stirred for 30 min. The reaction mixture was warmed up to room temperature and stirred for 1 hour. A saturated solution of ammonium chloride (50 ml) and ethyl acetate (50 ml) was added and stirred for 30 min. The organic layer was washed with brine (50 ml) and dried over sodium sulfate. After purification, via a column, 8.15 g of white solid of the desired product was obtained.

reactant | tert-butyl (4S,5R)-5-(4-bromophenyl)-4-(fluoromethyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 23 mmol, 9.0 g | BrC1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CF | C17H23BrFNO3
reactant | dimethyldisulfide | 3.1 ml, 1.5 eq | CSSC | C2H6S2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | tert-Butyl-(4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-methylthiophenyl)-1,3-oxazolidine-3-carboxylate | 8.15 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)SC)(C)C | C18H26FNO3S
